US04455422
1.9 Grams of 6-{1-hydroxy-4-[4-(3-chlorophenyl) -1- piperazinyl]butyl}-3,4-dihydrocarbostyril was dissolved in 50 ml of acetic acid and further 2 ml of concentrated hydrochloric acid was added to this solution. The solution was stirred at 80° C. for 30 minutes and the reaction mixture was concentrated under a reduced pressure to dryness to obtain a residue. To the residue was added 10N-NaOH and ether and stirred at a room temperature for 30 minutes. The crystals thus precipitated were collected by filtration and separated by a silica-gel chromatography. Recrystallized from ethanol-chloroform to obtain 6-{4-[4-(3-chlorophenyl)-1-piperazinyl]-1- butenyl}-3,4-dihydrocarbostyril in colorless prism-like crystals. Yield: 1.6 g. Melting point: 175° -176° C.

reactant | 6-{1-hydroxy-4-[4-(3-chlorophenyl) -1- piperazinyl]butyl}-3,4-dihydrocarbostyril | OC(CCCN1CCN(CC1)C1=CC(=CC=C1)Cl)C=1C=C2CCC(NC2=CC1)=O | C23H28ClN3O2
reactant | hydrochloric acid | 2 ml | Cl | ClH
reactant | NaOH | [OH-].[Na+]
reactant | ether | CCOCC | C4H10O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 6-{4-[4-(3-chlorophenyl)-1-piperazinyl]-1- butenyl}-3,4-dihydrocarbostyril | ClC=1C=C(C=CC1)N1CCN(CC1)CCC=CC=1C=C2CCC(NC2=CC1)=O | C23H26ClN3O
